### PR TITLE
[Merged by Bors] - chore: golf using `grind` and `simp`

### PR DESCRIPTION
**Pull request by euprunin**
The goal of this PR is to decrease the number of times lemmas are called explicitly. Any decrease in compilation time is a welcome side effect, although it is not a primary objective.

Trace profiling results (differences <30 ms considered measurement noise):
* `HomotopicalAlgebra.Cylinder.LeftHomotopy.weakEquivalence_iff`: unchanged 🎉
* `HomotopicalAlgebra.PathObject.RightHomotopy.weakEquivalence_iff`: unchanged 🎉
* `Finset.noncommProd_mulSingle`: unchanged 🎉
* `Finset.support_smulAntidiagonal_subset_smul`: unchanged 🎉
* `Function.updateFinset_updateFinset_of_subset`: unchanged 🎉
* `AlgebraicGeometry.PresheafedSpace.stalkMap.id`: 94 ms before, <30 ms after  🎉
* `IsUpperSet.total`: unchanged 🎉
* `MeasureTheory.IsStoppingTime.measurableSet_le_stopping_time`: unchanged 🎉

Profiled using `set_option trace.profiler true in`.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Probability/Process/Stopping.lean [hunk 1]
```diff
@@ -737,13 +737,8 @@ theorem measurableSet_le_stopping_time [TopologicalSpace ι] [SecondCountableTop
...
   refine ⟨measurableSet_le hτ.measurable' hπ.measurable', fun j ↦ ?_⟩
   have : {ω | τ ω ≤ π ω} ∩ {ω | τ ω ≤ j} = {ω | min (τ ω) j ≤ min (π ω) j} ∩ {ω | τ ω ≤ j} := by
-    ext1 ω
-    simp only [Set.mem_inter_iff, Set.mem_setOf_eq, min_le_iff, le_min_iff, le_refl,
-      and_congr_left_iff]
-    intro h
-    simp only [h, or_self_iff, and_true]
-    rw [Iff.comm, or_iff_left_iff_imp]
-    exact h.trans
+    ext x
```
Comment (artie2000) [inline Mathlib/Probability/Process/Stopping.lean]:
```suggestion
    ext
```

File: Mathlib/AlgebraicTopology/ModelCategory/LeftHomotopy.lean [hunk 2]
```diff
@@ -121,14 +121,8 @@ lemma weakEquivalence_iff [(weakEquivalences C).HasTwoOutOfThreeProperty]
...
-  revert P f₀ f₁
-  suffices ∀ (P : Cylinder X) {f₀ f₁ : X ⟶ Y} (h : P.LeftHomotopy f₀ f₁),
-      WeakEquivalence f₀ → WeakEquivalence f₁
-    from fun _ _ _ h ↦ ⟨this _ h, this _ h.symm⟩
-  intro P f₀ f₁ h h₀
-  have := weakEquivalence_of_precomp_of_fac h.h₀
-  rw [← h.h₁]
-  infer_instance
+  induction h
+  grind [weakEquivalence_precomp_iff]
```
Comment (artie2000) [inline Mathlib/AlgebraicTopology/ModelCategory/LeftHomotopy.lean:125]:
```suggestion
  induction h with grind [weakEquivalence_precomp_iff]
```
does this work?

Comment (j-loreaux) [reply Mathlib/AlgebraicTopology/ModelCategory/LeftHomotopy.lean:125]: even if it does (which I suspect it will), I don't think it's actually better?

**Review by j-loreaux — COMMENTED** [review]
You may merge once CI finishes

bors d+
